US07652015B2
Methyl 1-methylcyclohexane carboxylate
Treat a solution of 1-methylcyclohexane carboxylic acid (7.11 g, 50.0 mmol) in MeOH (10 mL) and Et2O (40 mL) dropwise with trimethylsilyldiazomethane (2.0 M/hexanes; 26 mL, 52 mmol). Stir the reaction mixture at room temperature overnight, then concentrate under reduced pressure to yield the title compound as a clear, pale yellow oil (7.811 g, 50 mmol; 100%). MS(ES): m/z=156 [M+H].

reactant | 1-methylcyclohexane carboxylic acid | 50.0 mmol, 7.11 g | CC1(CCCCC1)C(=O)O | C8H14O2
reactant | trimethylsilyldiazomethane | 52 mmol, 2.0 M, 26 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 10 mL | CO | CH4O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | Methyl 1-methylcyclohexane carboxylate | CC1(CCCCC1)C(=O)OC | C9H16O2
